US06444685B1
N-Benzyl-N-(3,4-dimethoxy-phenyl)-4-fluoro-benzenesulfonamide
N-(3,4-Dimethoxy-phenyl)-4-fluoro-benzenesulfonamide (0.51 g, 1.61 mM) was added to a solution of benzyl bromide (0.57 g, 4.82 mM) and potassium carbonate (0.66 g, 4.82 mM)in anhyrous acetone(10 ml). The reaction was stirred overnight. The undissolved solids were removed by filtration and the mother liquor was concentrated. This gum was triturated with hexanes to afford 0.52 g of the desired product as an off-white solid. H1 NMR(CDCl3) δ 3.66(s, 3H), 3.81(s, 3H), 6.42(m, 2H), 6.66(d, 1H, J=8.70 Hz), 7.23(m, 7H), 7.71(m, 2H). MS(ES) m/z 401.9; (MH+); HRMS for C21H20SFNO4: 401.1094.

reactant | N-(3,4-Dimethoxy-phenyl)-4-fluoro-benzenesulfonamide | 1.61 mM, 0.51 g | COC=1C=C(C=CC1OC)NS(=O)(=O)C1=CC=C(C=C1)F | C14H14FNO4S
reactant | benzyl bromide | 4.82 mM, 0.57 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 4.82 mM, 0.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-Benzyl-N-(3,4-dimethoxy-phenyl)-4-fluoro-benzenesulfonamide | 0.52 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)F)C1=CC(=C(C=C1)OC)OC | C21H20FNO4S
